* source I-FFD
M_FFD_NAND_M1         FFD_N00589 FFD_N00861 FFD_NAND_N00209 FFD_NAND_N00209
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND_M2         FFD_NAND_N00209 FFD_X 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND_M3         FFD_N00589 FFD_N00861 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND_M4         FFD_N00589 FFD_X N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
R_FFD_NAND_R1         FFD_N00861 0  10Meg  
R_FFD_NAND_R2         FFD_X 0  10Meg  
M_FFD_NAND-3_M2         FFD_NAND-3_N05674 N07146 FFD_NAND-3_N05700
+  FFD_NAND-3_N05700 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND-3_M3         FFD_Y FFD_X N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND-3_M5         FFD_Y FFD_N00861 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND-3_M4         FFD_Y N07146 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
R_FFD_NAND-3_R2         N07146 0  10Meg  
M_FFD_NAND-3_M6         FFD_NAND-3_N05700 FFD_N00861 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_FFD_NAND-3_R1         FFD_X 0  10Meg  
R_FFD_NAND-3_R3         FFD_N00861 0  10Meg  
M_FFD_NAND-3_M1         FFD_Y FFD_X FFD_NAND-3_N05674 FFD_NAND-3_N05674 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND1_M1         FFD_N00861 FFD_Y FFD_NAND1_N00209 FFD_NAND1_N00209 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_FFD_NAND1_M2         FFD_NAND1_N00209 N04926 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND1_M3         FFD_N00861 FFD_Y N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND1_M4         FFD_N00861 N04926 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
R_FFD_NAND1_R1         FFD_Y 0  10Meg  
R_FFD_NAND1_R2         N04926 0  10Meg  
M_FFD_NAND3_M1         N00649 FFD_X FFD_NAND3_N00209 FFD_NAND3_N00209 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND3_M2         FFD_NAND3_N00209 N00668 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND3_M3         N00649 FFD_X N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND3_M4         N00649 N00668 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
R_FFD_NAND3_R1         FFD_X 0  10Meg  
R_FFD_NAND3_R2         N00668 0  10Meg  
M_FFD_NAND2_M1         FFD_X FFD_N00589 FFD_NAND2_N00209 FFD_NAND2_N00209 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_FFD_NAND2_M2         FFD_NAND2_N00209 N07146 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND2_M3         FFD_X FFD_N00589 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND2_M4         FFD_X N07146 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
R_FFD_NAND2_R1         FFD_N00589 0  10Meg  
R_FFD_NAND2_R2         N07146 0  10Meg  
M_FFD_NAND4_M1         N00668 N00649 FFD_NAND4_N00209 FFD_NAND4_N00209 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND4_M2         FFD_NAND4_N00209 FFD_Y 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_FFD_NAND4_M3         N00668 N00649 N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
M_FFD_NAND4_M4         N00668 FFD_Y N00095 N00095 CMOSP  
+ L=.5u  
+ W=5u         
R_FFD_NAND4_R1         N00649 0  10Meg  
R_FFD_NAND4_R2         FFD_Y 0  10Meg  
V_V1         N00095 0 5
R_R1         N00668 N00095  100k  
R_R2         N00649 N00095  100k  
V_V3         N07146 0  
+PULSE 0 5 5n 1n 1n 5n 20n
V_V2         N04926 0  
+PULSE 5 0 0 1n 1n 20n 40n
