* source I-FFD
.EXTERNAL INPUT IN1
.EXTERNAL INPUT IN2
.EXTERNAL INPUT VDD
.EXTERNAL INPUT OUT
.EXTERNAL INPUT GND
M_M1         OUT IN1 N00209 N00209 CMOSN  
+ L=.18u  
+ W=.6u         
M_M2         N00209 IN2 GND GND CMOSN  
+ L=.18u  
+ W=.6u         
R_R1         GND IN1  100M  
M_M3         OUT IN1 VDD VDD CMOSP  
+ L=.18u  
+ W=1.2u         
M_M4         OUT IN2 VDD VDD CMOSP  
+ L=.18u  
+ W=1.2u         
R_R2         GND IN2  100M  
