* source I-FFD
V_IN2         N27481 0  
+PULSE 0 3 10u 1.5u 1.5u 2u 15u
M_M1         OUT N27521 N27469 N27469 CMOSN  
+ L=.2u  
+ W=.2u         
M_M5         OUT N27297 N27449 N27449 CMOSP  
+ L=.2u  
+ W=.4u         
M_M2         N27469 N27481 N27495 N27495 CMOSN  
+ L=.2u  
+ W=.2u         
V_VDD         N27449 0 3.3
V_IN3         N27297 0  
+PULSE 3 0 20u 1.5u 1.5u 2u 25u
M_M3         OUT N27521 N27449 N27449 CMOSP  
+ L=.2u  
+ W=.4u         
M_M6         N27495 N27297 0 0 CMOSN  
+ L=.2u  
+ W=.2u         
M_M4         OUT N27481 N27449 N27449 CMOSP  
+ L=.2u  
+ W=.4u         
V_IN1         N27521 0  
+PULSE 0 3 5u 1.5u 1.5u 2u 10u
