* source I-NAND
M_NAND_A1_M1         N00219 N00079 NAND_A1_N14393 0 MbreakN           
M_NAND_A1_M2         NAND_A1_N14393 N00079 0 0 MbreakN           
M_NAND_A1_M3         N00219 N00079 N00079 N00079 MbreakP           
M_NAND_A1_M4         N00219 N00079 N00079 N00079 MbreakP           
V_V1         N00079 0 5v
R_R1         0 N00219  1k TC=0,0 
