* source I-NAND
M_M7         OUT IN1 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
M_M8         OUT IN1 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
M_M12         OUT IN1 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
V_VIN         IN1 0  
+PULSE 0 3.3 10p 0 0 100p 150p
M_M9         OUT IN1 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
V_VDD1         N88382 0 3.3
M_M1         OUT IN1 N88766 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M10         N88906 IN1 N88946 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M3         N88766 IN1 N88906 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M11         N88946 IN1 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
