* source I-NAND
M_M4         VOUT IN1 N55468 N55468 CMOSP  
+ L=.18u  
+ W=.2u         
M_M9         VOUT IN1 N55468 N55468 CMOSP  
+ L=.18u  
+ W=.2u         
M_M7         N55752 IN1 N56014 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_VDD         N55468 0 3.3
M_M10         N56014 IN1 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M5         VOUT IN1 N55468 N55468 CMOSP  
+ L=.18u  
+ W=.2u         
M_M8         VOUT IN1 N55468 N55468 CMOSP  
+ L=.18u  
+ W=.2u         
M_M1         VOUT IN1 N55476 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M6         N55712 IN1 N55752 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M2         N55476 IN1 N55712 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_VIN         IN1 0 3.3
M_M3         VOUT IN1 N55468 N55468 CMOSP  
+ L=.18u  
+ W=.2u         
