* source COMPARADOR
M_M1         N14478 N14469 0 0 CMOSN  
+ L=20u  
+ W=219.68u         
V_VGS         N14469 0 0.5Vdc
V_VDS         N14478 0 0.210Vdc
