* source E-OPAMP-001
M_M2         D10 0 D1 VDC_5 PMOS           
M_M3         D3 D1 VDC_5 VDC_5 PMOS           
M_M4         D4 0 D3 VDC_5 PMOS           
M_M5         D5 D5 D6 VDC_5 PMOS           
V_V1         VDC_5 0 0Vdc
M_M6         D6 D6 VDC_5 VDC_5 PMOS           
M_M7         D5 D5 0 0 NMOS           
M_M8         D4 D6 D9 0 NMOS           
M_M9         D9 IN_0 D12 0 NMOS           
M_M10         D10 D6 D11 0 NMOS           
M_M11         D11 IN_1 D12 0 NMOS           
M_M12         D12 D5 0 0 NMOS           
M_M1         D1 D1 VDC_5 VDC_5 PMOS           
