* source I-COMPARADOR-01
V_VDD2         N42165 0 2
M_M3         N42165 N42102 N42165 N42165 CMOSN  
+ L=.2u  
+ W=.2u         
V_VNMOS         N40482 0 .1
V_VNMOS1         N42102 0 3
M_M2         N40219 N40482 0 0 CMOSN  
+ L=.18u  
+ W=.2u         
M_M4         0 N40501 N40242 N40242 CMOSP  
+ L=.2u  
+ W=.2u         
V_VPMOS         N40501 0 0
V_VDD         N40219 0 1
V_VDD1         N40242 0 3.3
